US08008497B2
3-Hydroxy-8-nitrobenzo[c]chromen-6-one (Reference Compound No. 1-(2))
A solution of methyl 2-(2,4-dimethoxyphenyl)-5-nitrobenzoate (Reference Compound No. 1-(1), 43.5 g, 137 mmol) in anhydrous methylene dichloride (250 mL) was cooled to −78° C., boron tribromide (96.2 g, 384 mmol) was added thereto, then the mixture was stirred at room temperature for 1 hour. The mixture was cooled to −50° C. and methanol (300 mL) was added thereto. The resulting precipitates were filtered off with methanol to give the titled reference compound (18.0 g) as a yellow solid. (Yield 51%)

reactant | methyl 2-(2,4-dimethoxyphenyl)-5-nitrobenzoate | COC1=C(C=CC(=C1)OC)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C16H15NO6
reactant | boron tribromide | 384 mmol, 96.2 g | B(Br)(Br)Br | BBr3
reactant | methanol | 300 mL | CO | CH4O
solvent | methylene dichloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-8-nitrobenzo[c]chromen-6-one | 18.0 g, Yield 51% | OC1=CC=C2C3=C(C(OC2=C1)=O)C=C(C=C3)[N+](=O)[O-] | C13H7NO5
